US05217978
Using the procedure described in Example 1, 4-hydroxy-4-[5-(naphth-2-ylthio)thien-2-yl]tetrahydropyran was reacted with methyl iodide to give 4-methoxy-4-[5-(naphth-2-ylthio)thien-2-yl]tetrahydropyran in 81% yield, m.p. 70° C.

reactant | 4-hydroxy-4-[5-(naphth-2-ylthio)thien-2-yl]tetrahydropyran | OC1(CCOCC1)C=1SC(=CC1)SC1=CC2=CC=CC=C2C=C1 | C19H18O2S2
reactant | methyl iodide | CI | CH3I
product | 4-methoxy-4-[5-(naphth-2-ylthio)thien-2-yl]tetrahydropyran | 81% yield | COC1(CCOCC1)C=1SC(=CC1)SC1=CC2=CC=CC=C2C=C1 | C20H20O2S2
